US05204332
Preparation of phenyl 2,3,5-tribromo-4-cyanopyrrole-1-carboxylate
A mixture of 7.0 g of 2,4,5-tribromopyrrole-3-carbonitrile and 2.9 g of potassium t-butoxide in tetrahydrofuran is treated with 13.8 g of phenyl chloroformate, heated at reflux temperature for 12 hours, cooled, poured into water and filtered. The solid filter cake is washed with water and dried in vacuo to afford the title compound. A sample is recrystallized from a mixture of ethyl acetate and methylcyclohexane to give colorless crystals, mp 128°-129° C.

reactant | 2,4,5-tribromopyrrole-3-carbonitrile | 7.0 g | BrC=1NC(=C(C1C#N)Br)Br | C5HBr3N2
reactant | potassium t-butoxide | 2.9 g | CC(C)([O-])C.[K+]
reactant | phenyl chloroformate | 13.8 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | phenyl 2,3,5-tribromo-4-cyanopyrrole-1-carboxylate | BrC=1N(C(=C(C1Br)C#N)Br)C(=O)OC1=CC=CC=C1 | C12H5Br3N2O2
